Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
___ Cardiac Catheterization: 3v CAD. Successful placement 
of PCI of Left circumflex with DES

attach
 
Pertinent Results:
ADMISSION LABS:
==============
___ 11:20PM BLOOD WBC-5.8 RBC-4.43* Hgb-15.0 Hct-43.7 
MCV-99* MCH-33.9* MCHC-34.3 RDW-12.9 RDWSD-46.3 Plt ___
___ 11:20PM BLOOD Neuts-63.1 ___ Monos-10.0 Eos-2.4 
Baso-0.5 Im ___ AbsNeut-3.66 AbsLymp-1.35 AbsMono-0.58 
AbsEos-0.14 AbsBaso-0.03
___ 11:20PM BLOOD Glucose-130* UreaN-15 Creat-0.9 Na-141 
K-4.4 Cl-106 HCO3-21* AnGap-14
___ 11:20PM BLOOD cTropnT-0.16*

PERTINENT LABS:
===============
___ 02:30AM BLOOD cTropnT-0.18*
___ 08:20AM BLOOD cTropnT-0.25*
___ 07:00AM BLOOD cTropnT-0.51*

MICROBIOLOGY:
=============
___ 07:56AM URINE Color-Yellow Appear-Hazy* Sp ___
___ 07:56AM URINE Blood-MOD* Nitrite-NEG Protein-TR* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-NEG
___ 07:56AM URINE RBC->182* WBC-13* Bacteri-FEW* Yeast-NONE 
Epi-0
___ 7:56 am URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 

IMAGING:
========
CXR, ___:
IMPRESSION:    
Mild cardiomegaly with pulmonary vascular congestion. 

Cardiac Catheterization, ___:
Three vessel coronary artery disease.
Successful target lesion PCI of the left circumflex

TTE, ___:
IMPRESSION: Biatrial dilatation. Normal biventricular wall 
thickness, cavity size, and regional/
global systolic function. Echocardiographic evidence for 
diastolic dysfunction with elevated
PCWP. Mild mitral regurgitation. Mild pulmonary hypertension.

DISCHARGE LABS:
===============
___ 07:00AM BLOOD WBC-6.2 RBC-4.23* Hgb-14.2 Hct-41.9 
MCV-99* MCH-33.6* MCHC-33.9 RDW-13.0 RDWSD-47.2* Plt ___
___ 07:00AM BLOOD Glucose-96 UreaN-11 Creat-0.8 Na-141 
K-4.4 Cl-108 HCO3-22 AnGap-11
___ 07:00AM BLOOD Calcium-8.3* Phos-3.2 Mg-1.9
 
Brief Hospital Course:
TRANSITIONAL ISSUES:
====================
[]Follow up with cardiology regarding recent NSTEMI s/p DES to 
proximal L circumflex. Patient found with 3v disease and may 
benefit from CABG ultimately. 
[]Consider switching amlodipine to ___, or adding on if 
pressures tolerate. Of note, patient has tried lisinopril in the 
past but did not tolerate due to side effects.
[]Follow up HRs. During this admission HRs between 40-60s and 
asymptomatic. For this reason, beta blockade was deferred.

BRIEF HOSPITAL COURSE:
======================
___ with a Hx of HTN and CAD presented with CP that was 
exertional, described as a substernal pressure, and improved 
with rest. In the emergency department he had an EKG revealing 
for sinus rhythm, ST depressions in V4-6 with TWI in III, AVF as 
well as RBBB (unclear if new) with rising troponin from 0.16 to 
0.25. He was given atorvastatin, ASA, and started on a heparin 
gtt prior to arrival to cath lab. Patient underwent cath with R 
radial access and was found to have 50% ostial L main stenosis, 
90% stenosis of L circumflex, and CTO of RCA. Patient elected to 
receive PCI to L circumflex. He had a DES placed at this lesion 
and he received loading dose of Plavix. The following day the 
patient was continued on aspirin 81 mg, Plavix 75 mg, and 
atorvastatin 80 mg. He was free of chest pain and shortness of 
breath. 

DISCHARGE WEIGHT: 186 lbs
DISCHARGE Cr: 0.8
CODE: Full
CONTACT: ___ (___)
Relationship: wife 
Phone number: ___ 

ACTIVE ISSUES:
==============
#NSTEMI s/p DES to pLCx:
#CAD
Patient presented with a few months history of CP and associated 
DOE. Per the patient, he had experienced two episodes the week 
prior of substernal chest pressure without associated radiating 
symptoms that was provoked by walking ___ blocks and resolved 
with rest after 5 minutes. The day of admission he had 
experienced a similar chest pain that was greater in intensity 
and persisted for 15 minutes even after lying down. In the ED he 
was found to be stable with an EKG revealing for sinus rhythm, 
ST depressions in leads V4-6, TWI in leads III and aVF and a 
RBBB (unclear if new). Patient was found to have a rising 
troponin, from 0.16 to 0.25. He was started on heparin gtt and 
given full dose ASA with a statin. He then underwent cardiac 
catheterization with R radial access. He was found to have 50% 
ostial L main stenosis, 90% stenosis of L circumflex, and CTO of 
RCA. Patient elected to receive PCI to L circumflex. He had a 
DES placed at this lesion and he received loading dose of 
Plavix. The following day patient was free of chest pain and 
without shortness of breath. He was continued on 81 mg ASA, 80 
mg atorvastatin, and 75 mg Plavix. He had a TTE which revealed 
normal biventricular systolic function. Given bradycardia in 
40-60s throughout admission, beta blockade was not given. In 
addition given normotension deferred starting ___ on this 
admission; of note, in the past patient had tried lisinopril, 
but this was discontinued due to side effects. 

#HTN
Patient's blood pressures within normal range throughout 
admission. He was continued on 5 mg amlodipine daily. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 5 mg PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin [Adult Aspirin Regimen] 81 mg 1 tablet(s) by mouth 
once a day Disp #*30 Tablet Refills:*0 
2.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth QPM Disp #*30 Tablet 
Refills:*0 
3.  Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
4.  Nitroglycerin SL 0.3 mg SL Q5MIN:PRN Chest pain 
Please take 1 tab every 5 minutes as needed for chest pain 
RX *nitroglycerin 0.3 mg 1 tablet(s) sublingually q5min PRN Disp 
#*30 Tablet Refills:*0 
5.  amLODIPine 5 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
==================
NSTEMI
CAD
HTN

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  

It was a pleasure taking care of you at ___ 
___.  

WHY WAS I ADMITTED TO THE HOSPITAL?  
=====================================
- You were admitted to the hospital because you had chest pain 
that was found to be due to a heart attack.
 
WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
============================================
- You were given several medications for your heart attack and 
you underwent a procedure to place a stent in a blocked artery 
within your heart.

 WHAT SHOULD I DO WHEN I GO HOME?
================================== 
- You should continue to take your medications as prescribed.  
- If you are experiencing new or concerning chest pain that is 
coming and going you should call the heartline at ___. 
If you are experiencing persistent chest pain that isn’t getting 
better with rest or nitroglycerine you should call ___.  
- You should also call the heartline if you develop swelling in 
your legs, abdominal distention, or shortness of breath at 
night.  
- You should attend the appointments listed below.  

 
 We wish you the best!  
 Your ___ Care Team  

 
Followup Instructions:
___